US08557832B2
To a solution of tert-butyl{(1S,2S)-2-[6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3(4H)-yl]cyclohexyl}carbamate (0.080 g, 0.15 mmol) in 2 mL of methanol was added hydrochloric acid (0.15 mL, 6 N aqueous, 0.92 mmol). The reaction was heated at 60° C. for 2 h, cooled to ambient temperature and concentrated in vacuo. The residue was concentrated twice with toluene. The residue was purified via preparative reverse phase HPLC to provide 3-[(1S,2S)-2-aminocyclohexyl]-6-[(6-chloropyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 419.0 for [M+H]+: 1H NMR (400 MHz, d6-DMSO) δ 9.10-9.08 (m, 1H), 8.56 (br s, 1H), 8.27 (s, 1H), 8.14-8.12 (m, 1H), 8.04 (s, 1H), 7.80-7.75 (m, 3H), 7.43-7.36 (m, 1H), 4.60 (s, 2H), 2.31-2.24 (m, 2H), 2.12-1.94 (m, 4H), 1.70-1.56 (m, 4H).

reactant | tert-butyl{(1S,2S)-2-[6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3(4H)-yl]cyclohexyl}carbamate | 0.15 mmol, 0.080 g | C(C)(C)(C)OC(N[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)Cl)C=CC=C3)=O | C29H31ClN4O3
reactant | hydrochloric acid | 0.92 mmol, 6 N, 0.15 mL | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
product | 3-[(1S,2S)-2-aminocyclohexyl]-6-[(6-chloropyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one | N[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)Cl)C=CC=C3 | C24H23ClN4O
